US04008258
In a 500 ml. flask is stirred 3.2 g. of docosanoic acid in 250 ml. of dry benzene until most of acid dissolves. Oxalyl chloride (3.5 g.) is added and mixture stirred for 2 hours at room temperature under nitrogen. Solvent is removed in vacuo and fresh benzene added and 1.3 g. of cyclopropylmethyl alcohol. The reaction product is worked up by washing with water and brine, drying over calcium sulfate and evaporation of solvent to yield cyclopropylmethyl docosanoate m.p. 44°, which can be further purified by recrystallization from methanol.

reactant | docosanoic acid | C(CCCCCCCCCCCCCCCCCCCCC)(=O)O | C22H44O2
reactant | Oxalyl chloride | 3.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | benzene | C1=CC=CC=C1 | C6H6
product | cyclopropylmethyl docosanoate | C(CCCCCCCCCCCCCCCCCCCCC)(=O)OCC1CC1 | C26H50O2
